2181-02-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-2-26**] 12:17 PM
 ULTRASOUND - At [**2181-2-26**] 04:12 PM
   -seen by [**Last Name (un) 303**], recommended 20 units 75/25 tonight and 20 NPH in am
   (while NPO), then her home regimen is 42 (75/25)units qam, 20units qpm
   plus sliding scale
   -put out 1.6L for 20mg IV lasix once
   -hep drip dc
   -NPO for cath in am, getting precath hydration
   -echo:Mild symmetric left ventricular hypertrophy with mild hypokinesis
   of the mid to distal inferolateral wall. Diastolic dysfunction. Mild to
   moderate mitral regurgitation. Moderate pulmonary artery systolic
   hypertension.
   -foley inserted
   -got baseline LFTs, AST 91
   S: Denies CP, SOB, lightheadedness, palpitations. Had some cold sweats
   earlier this am with glucose 59.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:21 PM
   Dextrose 50% - [**2181-2-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 48 (48 - 79) bpm
   BP: 137/51(72) {122/47(68) - 178/94(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                  1,225 mL
                                                                    144 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    365 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    760 mL
   Urine:
                                                                  2,720 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   9.0 g/dL
   66 mg/dL
   1.5 mg/dL
   30 mEq/L
   4.0 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2181-2-25**]  10:38 PM
                             [**2181-2-26**]  04:47 AM
                             [**2181-2-26**]  06:07 AM
                             [**2181-2-26**]  07:47 PM
                             [**2181-2-27**]  04:21 AM
   WBC
   5.9
   6.6
   6.0
   Hct
   26.7
   27.4
   26.9
   Plt
   261
   277
   276
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   1.52
   1.45
   Glucose
   [**Telephone/Fax (3) 6077**]99
   66
   Other labs: PT / PTT / INR:12.5/23.1/1.1, CK / CKMB /
   Troponin-T:428/20/1.45, ALT / AST:29/91, Alk Phos / T Bili:135/0.4,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Patient is an 83 y/o F with HTN, DM2 on insulin, CKI, no prior CAD hx
   who presents with L shoulder pain and EKG changes in setting of
   hypertensive emergency.
   .
   #. CAD: Pt presenting with EKG changes and troponin leak in setting of
   hypertensive emergency with L shoulder pain, concern for ischemic
   etiology but most likely [**1-29**] demand in setting of hypertension. Chest
   pain now resolved after Morphine 2mg IV x 1, SL Nitro, and Labetalol
   gtt.
   - Repeat EKG
   - Monitor on telemetry
   - Trend cardiac enzymes till peaks
   - ASA 325 PO daily
   - Hold off on heparin gtt/ Plavix unless enzymes rise in setting of
   symptomatic ekg changes
   - Resume Metoprolol and Lisinopril
   - ECHO in am to evaluate baseline cardiac function
   - Consider stress vs. cath if clinical picture becomes more consistent
   with ACS
   - Risk stratification with A1C and lipid panel
   .
   # Hypertensive emergency:  Unclear precipitant. Pt does have hx of
   sensitivity to missing anti-hypertensive meds. Currently on labetalol
   gtt. Denies recent headaches, visual changes, decreased UOP, or other
   signs of end organ damage.
   - Continue Labetalol gtt to maintain goal BP 140-160, wean as tolerated
   while transitioning to home meds
   - Resume home Metoprolol and Lisinopril
   - Check urinalysis for signs of ATN and monitor Cr
   .
   # DM2: serum glucose 372 on admission. Pt on insulin at home. Last
   HbA1c on [**11-4**] elevated at 11.6. Pt reports compliance with insulin,
   but did self-titrate down insulin last week. Followed by Dr. [**Last Name (STitle) 6055**] at
   [**Hospital 303**] Clinic.
   - Continue home Humalog 75/25
   - FS Qachs, HISS PRN
   - Consider resuming home Metformin if Cr stable in am
   - HbA1c pending
   - Consider touching base with [**Last Name (un) 303**] if bs remain uncontrolled on
   current regimen
   .
   # CKI: Cr on admission 1.3, appears to be at baseline (was 1.3 in
   [**11-4**], and has been higher in the past.) - Monitor daily Cr
   - Check u/a for signs of ATN given hypertensive urgency
   - Consider resuming home Metformin for DM2 if Cr stable in am
   .
   # Hyperlipidemia: Pt has reported hx of hyperlipidemia, but is not on a
   lipid-lowering medication at home, and unclear what baseline lipid
   status is.
   - Check lipid profile, consider adding low-dose statin+
   .
   # Anemia: crit currently 32.1, at baseline (~32-33). No active signs of
   bleeding.
   - Monitor daily crits
   - Fe studies pending
   - Transfusion goal >21 (or >25 if clinical picture evolves into ACS)
   .
   #. Pump: No prior hx of ECHO per pt or in OMR. JVP elevated, and CXR
   shows mild bilateral pleural effusions, consistent with mild heart
   failure.
   - ECHO in am to eval baseline cardiac function
   .
   #. Rhythm: NSR with HR In 60s.
   - Monitor on telemetry
   .
   #. FEN: cardiac/diabetic diet, replete lytes PRN, no IVF for now
   .
   #. Access:  PIV
   .
   #. PPx:  heparin SC, no PPI indicated, bowel regimen
   .
   #. Code:  presumed FULL
   .
   # Contact: [**Name (NI) 6056**] [**Name (NI) 6057**], daughter [**Telephone/Fax (1) 6058**]
   .
   #. Dispo:  pending improvement of hypertension, weaning off labetalol
   gtt..
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: